US07125488B2
Preparation of Trimethoxysilylpropylacetamide
A three-neck round-bottomed flask, equipped with a mechanical stirrer, a refluxing condenser and a dropping funnel, was charged with 3-aminopropyltrimethoxysilane (18 gram, Gelest Inc.), toluene (40 mL, Aldrich) and triethylamine (13 gram, Aldrich). Stirring was started, and an appropriate acyl chloride such as acetyl chloride (18 mL, Aldrich) was added dropwise to the flask. The mixture was stirred at room temperature under an argon atmosphere for 16 hours.

reactant | 3-aminopropyltrimethoxysilane | 18 gram | NCCC[Si](OC)(OC)OC | C6H17NO3Si
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | acetyl chloride | 18 mL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 13 gram | C(C)N(CC)CC | C6H15N
product | Trimethoxysilylpropylacetamide | CO[Si](OC)(OC)CCCCC(=O)N | C8H19NO4Si
